US03948919
E. 2-hydroxymethyl-3-hydroxy-6-(1-hydroxy-2-t-butylaminoethyl)pyridine dihydrochloride
To 10 ml. of methanol and 10 ml. of 10% hydrochloric acid is added 227 mg. of 2,2-dimethyl-6-(1-hydroxy-2-t-butylaminoethyl)-4H-pyrido[3,2-d]-1,3-dioxin, and the resulting reaction mixture allowed to stir at room temperature for 1.5 hrs. Removal of the solvents under vacuum at 70° C. provides 230 mg. of the desired product, which is identical by nuclear magnetic resonance spectroscopy to the product in U.S. Pat. No. 3,700,681.

reactant | hydrochloric acid | Cl | ClH
reactant | 2,2-dimethyl-6-(1-hydroxy-2-t-butylaminoethyl)-4H-pyrido[3,2-d]-1,3-dioxin | CC1(OCC2=C(O1)C=CC(=N2)C(CNC(C)(C)C)O)C | C15H24N2O3
solvent | methanol | CO | CH4O
product | 2-hydroxymethyl-3-hydroxy-6-(1-hydroxy-2-t-butylaminoethyl)pyridine dihydrochloride | Cl.Cl.OCC1=NC(=CC=C1O)C(CNC(C)(C)C)O | InChI=1S/C12H20N2O3.2ClH/c1-12(2,3)13-6-11(17)8-4-5-10(16)9(7-15)14-8;;/h4-5,11,13,15-17H,6-7H2,1-3H3;2*1H
